US07943607B2
3-[(3-Methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-N-(5-methylpyrazin-2-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
The preparations of 7-fluoro-3-methyl-2,3-dihydro-4H-1,3-benzoxazin-4-one and 3-hydroxy-N-(5-methylpyrazin-2-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide were described earlier.

reactant | 7-fluoro-3-methyl-2,3-dihydro-4H-1,3-benzoxazin-4-one | FC1=CC2=C(C(N(CO2)C)=O)C=C1 | C9H8FNO2
reactant | 3-hydroxy-N-(5-methylpyrazin-2-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@@H]1COCC1 | C16H17N3O4
product | 3-[(3-Methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-N-(5-methylpyrazin-2-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | CN1COC2=C(C1=O)C=CC(=C2)OC=2C=C(C(=O)NC1=NC=C(N=C1)C)C=C(C2)O[C@@H]2COCC2 | C25H24N4O6
